USRE039088E1
Step 13) N-(3,5-Dichloro-2,4-dihydroxybenzoyl)-L-phenylalanine methyl ester (XVII)
To a solution of 3,4-dichloro-2,4-dihydroxybenzoic acid (17 g), L-phenylalanine methyl ester hydrochloride (19.8 g), WSC.HCl (17.6 g) and HOBT (12.4 g) in DMF (70 ml) was added dropwise triethylamine (12.8 ml) at room temperature, and the mixture was stirred for 16 hours. Then, the mixture was post-treated in the same manner as in the above Example 1, (Step 5) to give the title compound (18.32 g, yield 57%).

reactant | 3,4-dichloro-2,4-dihydroxybenzoic acid | 17 g | ClC1C(=C(C(=O)O)C=CC1(O)Cl)O | C7H6Cl2O4
reactant | L-phenylalanine methyl ester hydrochloride | 19.8 g | Cl.COC([C@@H](N)CC1=CC=CC=C1)=O
reactant | WSC.HCl | 17.6 g | CCN=C=NCCCN(C)C.Cl
reactant | HOBT | 12.4 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
solvent | DMF | 70 ml | CN(C)C=O | C3H7NO
solvent | triethylamine | 12.8 ml | C(C)N(CC)CC | C6H15N
product | N-(3,5-Dichloro-2,4-dihydroxybenzoyl)-L-phenylalanine methyl ester | 18.32 g, yield 57% | COC([C@@H](NC(C1=C(C(=C(C(=C1)Cl)O)Cl)O)=O)CC1=CC=CC=C1)=O | C17H15Cl2NO5
